US05194430
Step a: Piperidine-2,3-dicarboxylic acid
Dissolve pyridine-2,3-dicarboxylic acid (20 g, 120 mmol) in 0.5N aqueous sodium hydroxide (900 mL). Add nickel/aluminum powder (45 g) in portions over 3 hours. Stir for 4 days, filter off the catalyst to yield the title compound in clear solution. The resulting free amine is not isolated.

reactant | pyridine-2,3-dicarboxylic acid | 120 mmol, 20 g | N1=C(C(=CC=C1)C(=O)O)C(=O)O | C7H5NO4
solvent | sodium hydroxide | 0.5N, 900 mL | [OH-].[Na+]
catalyst | nickel aluminum | 45 g | [Ni].[Al]
product | Piperidine-2,3-dicarboxylic acid | N1C(C(CCC1)C(=O)O)C(=O)O | C7H11NO4
